US07625902B2
A solution of 3-bromo-2-chloro-6-picoline (0.2 g), piperazine (0.083 g) and triethylamine (0.096 g) in acetonitrile (5 ml) was heated in the microwave apparatus: 30 min at 120° C. followed by 60 min at 150° C. and 30 min at 170° C. The mixture was concentrated and the product was purified by chromatography (SiO2, CH2Cl2=>CH2Cl2/CH3OH 4:1) to give 1-(3-bromo-6-methyl-pyridin-2-yl)-piperazine (0.05 g) as a light yellow solid.

reactant | 3-bromo-2-chloro-6-picoline | 0.2 g | BrC=1C(=NC(=CC1)C)Cl | C6H5BrClN
reactant | piperazine | 0.083 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 0.096 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-(3-bromo-6-methyl-pyridin-2-yl)-piperazine | 0.05 g | BrC=1C(=NC(=CC1)C)N1CCNCC1 | C10H14BrN3
